US06803484B2
To a suspension of [(2R)-2-(4-aminophenyl)propyl][(methylethyl)sulfonyl]amine p-toluenesulfonate (41.2 g, 0.0961 mol) in CH2Cl2 (300 mL) was added saturated aqueous NaHCO3 until the pH of the aqueous phase was 6.5. The phases were separated and the organic phase was washed with 5% NaHCO3 (2×100 mL), H2O (100 mL), and concentrated to provide [(2R)-2-(4-aminophenyl)propyl][(methylethyl)sulfonyl]amine as an oil. After diluting the oil with diethyl ether (50 mL), crystallization began after 10 min. Caution: Heat of crystallization caused ether to boil. After the exotherm subsided (45 minutes), the suspension was filtered, and the filter cake was washed with diethyl ether (2×20 mL), and dried under reduced pressure to afford [(2R)-2-(4-aminophenyl)propyl][(methylethyl)sulfonyl]amine (21.7 g, 88.1%). 1H NMR (CDCl3, 300 MHz) δ7.00 (d, 2H, J=8.1); 6.66 (d, 2H, J=8.4), 3.83 (m, 1H), 3.65(br s, 2H), 3.31 (m, 1H), 3.09 (m, 2H), 2.85 (m, 1H), 1.30 (d, 3H, J=7.2), 1.26 (d, 3H, J=6.9), 1.24 (d, 3H, J=6.9).

reactant | [(2R)-2-(4-aminophenyl)propyl][(methylethyl)sulfonyl]amine p-toluenesulfonate | 0.0961 mol, 41.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.NC1=CC=C(C=C1)[C@H](CNS(=O)(=O)C(C)C)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | [(2R)-2-(4-aminophenyl)propyl][(methylethyl)sulfonyl]amine | NC1=CC=C(C=C1)[C@H](CNS(=O)(=O)C(C)C)C | C12H20N2O2S
